US07915200B2
10. Preparation of 2-(4-Chloro-2,5-difluorophenyl)-4-methylsulfanyl-6-oxo-1,6-dihydropyrimidine-5-carboxylic acid tert-butyl ester
2-Cyano-3,3-bis-methylsulfanyl-acrylic acid tert-butyl ester (2.94 g, 12 mmol) and 4-chloro-2,5-difluorobenzamide (2.29 g, 12 mmol) were combined in 50 mL DMF and 60% sodium hydride (1.0 g, 25 mmol) was added in a single portion. After 1 hour, the reaction mixture was added to water and the neutralized with 2N HCl. The product was extracted with ether, dried, filtered and concentrated. The product was triturated with 30% diethyl ether/hexane to give 1.85 g of a white solid that was then heated in methanol overnight. The solid that formed when the reaction mixture cooled was filtered, rinsed with a small amount of cold methanol, and dried to give the title compound as a yellow solid (1.45 g, 31% yield for the two steps): 1H NMR (DMSO-d6): δ 13 (br s, 1H), 7.8-8.0 (m, 2H), 2.4 (s, 3H), 1.5 (s, 9H).

reactant | 2-Cyano-3,3-bis-methylsulfanyl-acrylic acid tert-butyl ester | 12 mmol, 2.94 g | C(C)(C)(C)OC(C(=C(SC)SC)C#N)=O | C10H15NO2S2
reactant | 4-chloro-2,5-difluorobenzamide | 12 mmol, 2.29 g | ClC1=CC(=C(C(=O)N)C=C1F)F | C7H4ClF2NO
reactant | sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Chloro-2,5-difluorophenyl)-4-methylsulfanyl-6-oxo-1,6-dihydropyrimidine-5-carboxylic acid tert-butyl ester | 1.85 g, 31% yield | C(C)(C)(C)OC(=O)C1=C(N=C(NC1=O)C1=C(C=C(C(=C1)F)Cl)F)SC | C16H15ClF2N2O3S
